US09210927B2
Preparation of tert-Butyl 2-cyano-4-vinylbenzoate (AI23)
To a stirred solution of tert-butyl 2-bromo-4-vinylbenzoate (0.5 g, 1.77 mmol) in DMF (20 mL) was added copper(I) cyanide (CuCN; 0.23 g, 2.65 mmol), and the reaction mixture was heated at 140° C. for 3 h. The reaction mixture was cooled to 25° C., diluted with H2O, and extracted with EtOAc. The combined organic layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 100-200 mesh; eluting with 15% EtOAc in n-hexane) to afford the title compound as a white solid (0.3 g, 72%): mp 51-53° C.; 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 7.77 (s, 1H), 7.64 (d, J=8.4 Hz, 1H), 6.75 (dd, J=17.6, 10.8 Hz, 1H), 5.93 (d, J=17.6 Hz, 1H), 5.51 (d, J=10.8 Hz, 1H), 1.65 (s, 9H); ESIMS m/z 229.84 ([M+H]+); IR (thin film) 2370, 1709, 1142 cm−1.

reactant | tert-butyl 2-bromo-4-vinylbenzoate | 1.77 mmol, 0.5 g | BrC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C=C | C13H15BrO2
reactant | copper(I) cyanide | 2.65 mmol, 0.23 g | [Cu]C#N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | tert-Butyl 2-cyano-4-vinylbenzoate | 0.3 g, 72% | C(#N)C1=C(C(=O)OC(C)(C)C)C=CC(=C1)C=C | C14H15NO2
